US07935688B2
(1) Synthesis of [1-(3-bromo-phenyl)-1-ethyl-propoxy]-trimethyl-silane
N-trimethylsilylimidazole (8.2 mL, 55.81 mol) was added to a solution of the crude 3-(3-bromo-phenyl)-pentan-3-ol in tetrahydrofuran (100 mL) in a nitrogen atmosphere at room temperature, and the mixture was stirred overnight. The reaction mixture was poured into distilled water, followed by extraction with dichloromethane. The extract was washed with brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel chromatography (n-hexane:ethyl acetate=40:1) to give the title compound as a colorless oil (8.7 g, 59% in two steps).

reactant | N-trimethylsilylimidazole | 55.81 mol, 8.2 mL | C[Si](N1C=NC=C1)(C)C | C6H12N2Si
reactant | 3-(3-bromo-phenyl)-pentan-3-ol | BrC=1C=C(C=CC1)C(CC)(CC)O | C11H15BrO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | [1-(3-bromo-phenyl)-1-ethyl-propoxy]-trimethyl-silane | 8.7 g, 59% | BrC=1C=C(C=CC1)C(CC)(O[Si](C)(C)C)CC | C14H23BrOSi
